US07632964B2
2-Methylbutyl 3-methylbutenoate
At room temperature under nitrogen in a 500 ml flask, a mixture of 87.3 g of 3,3-dimethylacrylic acid (0.85 mol) and 134.7 g of DL-2-methyl-1-butanol (1.50 mol, 1.75 eq.) and 4.25 g of para-toluene suflonic acid monohydrate (0.024 mol, 0.026 eq.) was treated with 100 ml heptane and then heated at reflux at 90° C. for 14 hours while 15.4 ml (0.85 mol) of H2O was collected in a Dean-Stark trap. The result was an orange solution. The solution was extracted with MTBE/brine (2×350 ml/200 ml brine). The organic layers were washed with NaHCO3 (200 ml saturated solution), brine (200 ml), dried over MgSO4 and concentrated. 205 g of a orange liquid was recovered, which was purified by distillation over a 30 cm plate-column. 131.1 g of a colorless liquid was recovered (bp 58° C./3.5 torr (4.7 bar) 90.5% yield).

reactant | 3,3-dimethylacrylic acid | 0.85 mol, 87.3 g | CC(=CC(=O)O)C | C5H8O2
reactant | DL-2-methyl-1-butanol | 1.50 mol, 134.7 g, 1.75 eq. | CCC(C)CO | C5H12O
reactant | para-toluene | 0.024 mol, 4.25 g, 0.026 eq. | CC1=CC=CC=C1 | C7H8
reactant | H2O | 0.85 mol, 15.4 ml | O | H2O
solvent | heptane | 100 ml | CCCCCCC | C7H16
product | 2-Methylbutyl 3-methylbutenoate | 90.5% yield | CC(=CC(=O)OCC(CC)C)C | C10H18O2
